US08236806B2
1-(2-fluorophenyl)-4-(3-(1-(3-chlorophenyl)-3-butyl-1H-pyrazol-5-yl)propyl)piperazine (Compound 180)
312 mg (84.2%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-(3-chlorophenyl)-3-butyl-1H-pyrazol-5-yl)propanal (236.75 mg, 0.814 mmol), 1-(2-fluorophenyl)piperazine (192.9 mL, 1.221 mmol), and NaBH(OAc)3 (198 mg, 0.936 mmol).

reactant | 3-(1-(3-chlorophenyl)-3-butyl-1H-pyrazol-5-yl)propanal | 0.814 mmol, 236.75 mg | ClC=1C=C(C=CC1)N1N=C(C=C1CCC=O)CCCC | C16H19ClN2O
reactant | 1-(2-fluorophenyl)piperazine | 1.221 mmol, 192.9 mL | FC1=C(C=CC=C1)N1CCNCC1 | C10H13FN2
reactant | NaBH(OAc)3 | 0.936 mmol, 198 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(2-fluorophenyl)-4-(3-(1-(3-chlorophenyl)-3-butyl-1H-pyrazol-5-yl)propyl)piperazine | FC1=C(C=CC=C1)N1CCN(CC1)CCCC1=CC(=NN1C1=CC(=CC=C1)Cl)CCCC | C26H32ClFN4
